US05025025
To a solution of 4.17 g (13.8 mmol) of 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane in 30 mL dry dimethylformamide is added 17 mL (27.6 mmol) of a 1.61 M solution of potassium t-butoxide in tetrahydrofuran and the resulting red solution is stirred for 0.5 hour. Then the mixture is cooled to 10° C. and 4.9 g (30.4 mmol) of sodium bromoacetate is added followed by 40 mL dry dimethylformamide, and the reaction mixture stirred at room temperature for 18 hours. The reaction mixture is diluted with ether and water. The ether layer is separated and the aqueous phase is adjusted to pH=6.5 using 1N aqueous hydrochloric acid. The resulting solution is extracted thrice with ethyl acetate. The aqueous phase is again adjusted to pH=6.5 and extracted again. The combined organic phase is washed with brine, dried, filtered, and concentrated to give 8-hydroxy-4-[3-(3-pyridyl)propyl]-3-oxa-octanoic acid.

reactant | 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane | 13.8 mmol, 4.17 g | OC(CCCCOC1OCCCC1)CCCC=1C=NC=CC1 | C18H29NO3
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | sodium bromoacetate | 30.4 mmol, 4.9 g | BrCC(=O)[O-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 8-hydroxy-4-[3-(3-pyridyl)propyl]-3-oxa-octanoic acid | OCCCCC(OCC(=O)O)CCCC=1C=NC=CC1 | C15H23NO4
